US04260816
4-[N-Ethyl-2-(1-naphthyloxy)ethylamino]benzoic acid
The compound according to claim 2 wherein Y is ethylene, R is hydrogen and X is 1,2,3,4-tetrahydro-5-naphthyl; p-{[2-(1,2,3,4-tetrahydro-5-naphthyloxy)ethyl]amino}benzoic acid.

reactant | ethylene | C=C | C2H4
reactant | hydrogen | [H][H] | H2
reactant | p-{[2-(1,2,3,4-tetrahydro-5-naphthyloxy)ethyl]amino}benzoic acid | C1CCCC2=C(C=CC=C12)OCCNC1=CC=C(C(=O)O)C=C1 | C19H21NO3
product | 4-[N-Ethyl-2-(1-naphthyloxy)ethylamino]benzoic acid | C(C)N(C1=CC=C(C(=O)O)C=C1)CCOC1=CC=CC2=CC=CC=C12 | C21H21NO3
